US04234595
Procedure 70. 1-[[2-(5-METHOXY-3-INDOLYL)-1,1-DIMETHYLETHYL]AMINO]-3-(2-METHYLPHENOXY)-2-PROPANOL HYDROCHLORIDE
(2-Methylphenoxymethyl)oxirane, 4.1 g., (0.025 mole) and 5.4 g. (0.025 mole) of 5-methoxy-α,α-dimethyl-1H-indol-3-yl-ethaneamine were mixed and heated at 130° for 2 hrs. The mixture was allowed to cool, but while still warm was dissolved in 60 ml. of acetonitrile and acidified with ethanolic 5 N HCl to pH 2. Th product crystallized as the hydrochloride salt, yield 8.3 g.; recrystallized from isopropanol/methanol, yield 7.4 g., m.p. 201.0°-203.0°.

reactant | (2-Methylphenoxymethyl)oxirane | CC1=C(OCC2OC2)C=CC=C1 | C10H12O2
reactant | 5-methoxy-α,α-dimethyl-1H-indol-3-yl-ethaneamine | 0.025 mole | COC=1C=C2C(=CNC2=CC1)CC(N)(C)C | C13H18N2O
reactant | HCl | 5 N | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[[2-(5-METHOXY-3-INDOLYL)-1,1-DIMETHYLETHYL]AMINO]-3-(2-METHYLPHENOXY)-2-PROPANOL HYDROCHLORIDE | Cl.COC=1C=C2C(=CNC2=CC1)CC(C)(C)NCC(COC1=C(C=CC=C1)C)O | InChI=1S/C23H30N2O3.ClH/c1-16-7-5-6-8-22(16)28-15-18(26)14-25-23(2,3)12-17-13-24-21-10-9-19(27-4)11-20(17)21;/h5-11,13,18,24-26H,12,14-15H2,1-4H3;1H
